US08349851B2
4-Chloro-2-(difluoro(4-fluorophenyl)methyl)-7-methoxyquinazoline was obtained according to the procedure described in Example 26 for synthesis of 4-chloro-2-(difluoro(4-fluorophenyl)methyl)-7-methylquinazoline, substituting 2-(difluoro(4-fluorophenyl)methyl)-7-methylquinazolin-4-ol in Example 26 with 2-(difluoro(4-fluorophenyl)methyl)-7-methoxyquinazolin-4-ol. 4-Chloro-2-(difluoro(4-fluorophenyl)methyl)-7-methoxyquinazoline was isolated as a light yellow solid (0.290 g, 89%). LC-MS (ESI) m/z 339 (M+H)+.

reactant | 4-chloro-2-(difluoro(4-fluorophenyl)methyl)-7-methylquinazoline | ClC1=NC(=NC2=CC(=CC=C12)C)C(C1=CC=C(C=C1)F)(F)F | C16H10ClF3N2
reactant | 2-(difluoro(4-fluorophenyl)methyl)-7-methylquinazolin-4-ol | FC(C1=NC2=CC(=CC=C2C(=N1)O)C)(C1=CC=C(C=C1)F)F | C16H11F3N2O
reactant | 2-(difluoro(4-fluorophenyl)methyl)-7-methoxyquinazolin-4-ol | FC(C1=NC2=CC(=CC=C2C(=N1)O)OC)(C1=CC=C(C=C1)F)F | C16H11F3N2O2
product | 4-Chloro-2-(difluoro(4-fluorophenyl)methyl)-7-methoxyquinazoline | ClC1=NC(=NC2=CC(=CC=C12)OC)C(C1=CC=C(C=C1)F)(F)F | C16H10ClF3N2O
